US08633173B2
8-(3-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine was prepared from 8-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine (1.0 g, 4.7 mmol) and 3-(methanesulfonyl)phenyl boronic acid (1.0 g, 5.0 mmol) in a manner analogous to Step 2c. The reaction product was isolated as an off-white solid (0.99 g, 73%). MP=173-183° C. 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 8.64-8.60 (m, 1H), 8.59 (t, J=1.6 Hz, 1H), 8.50-8.46 (m, 1H), 7.98-7.94 (m, 1H), 7.86-7.83 (m, 1H), 7.78 (dd, J=7.8, 7.8 Hz, 1H), 7.02 (dd, J=7.1, 7.1 Hz, 1H), 6.18 (s, 1H), 3.29 (S, 3H). MS=289 (MH)+.

reactant | 8-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | 4.7 mmol, 1.0 g | BrC=1C=2N(C=CC1)N=C(N2)N | C6H5BrN4
reactant | 3-(methanesulfonyl)phenyl boronic acid | 5.0 mmol, 1.0 g | CS(=O)(=O)C=1C=C(C=CC1)B(O)O | C7H9BO4S
product | 8-(3-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | CS(=O)(=O)C=1C=C(C=CC1)C=1C=2N(C=CC1)N=C(N2)N | C13H12N4O2S
